US05476876
A stirred solution of 3,5-di-tert-butyl-4-hydroxyacetophenone (Apim Chemicals, Ltd.) (4 g) in dry methylene chloride (250 mL) is cooled to -78° C. and di-isopropyl ethylamine (7.3 mL) is added followed by trimethylsilyl trifluoromethanesulphonate (Aldrich Chemical Co.) (8.0 mL). The mixture is stirred at -78° C. for 10 minutes and is allowed to warm to ambient temperature over 1 hour. The mixture is cooled again to -78° C. and dry acetone (4.05 mL) is added dropwise. After stirring for 25 minutes, the mixture is washed with 1N aqueous hydrochloric acid and brine. The organic solution is dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The crude product is dissolved in methanol-1N aqueous HCl mixture (10:1, v/v, 200 mL) and the homogenous solution is stirred for 1 hour at room temperature. Methanol is removed under reduced pressure; the mixture is washed with methylene chloride. The organic extracts are washed: with aqueous sodium bicarbonate, brine, dried over anhydrous sodium sulfate, and the solvent is removed under reduced pressure. The crude product is crystallized from hexane to give 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-methyl-butan-1-one as orange crystals. Two additional crystallizations give product of analytical purity, mp 113°-14° C.

reactant | 3,5-di-tert-butyl-4-hydroxyacetophenone | 4 g | CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H24O2
reactant | di-isopropyl ethylamine | 7.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyl trifluoromethanesulphonate | 8.0 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | acetone | 4.05 mL | CC(=O)C | C3H6O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-methyl-butan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(C)(C)O)=O | C19H30O3
